US07851473B2
(2) N-(5-ethyl-1,3,4-oxadiazol-2-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (5-ethyl-1,3,4-oxadiazol-2-yl)carbamate (213 mg, 0.738 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.129 ml, 0.738 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours and half. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Chloroform was poured to the residue, and 140 mg (49.1%) of the desired product as a solid was separated by filtration.

reactant | 2,2,2-trichloroethyl (5-ethyl-1,3,4-oxadiazol-2-yl)carbamate | 0.738 mmol, 213 mg | C(C)C1=NN=C(O1)NC(OCC(Cl)(Cl)Cl)=O | C7H8Cl3N3O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.738 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(5-ethyl-1,3,4-oxadiazol-2-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | C(C)C1=NN=C(O1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C17H19N7O2S
